US09290451B2
c) 5-(3,3-Difluoro-azetidin-1-yl)-6-(2-methoxy-ethoxy)-pyridine-2-carboxylic acid ((S)-1-carbamoyl-3-methyl-butyl)-amide
The title compound was synthesized in analogy to Example 1, using 5-(3,3-difluoro-azetidin-1-yl)-6-(2-methoxy-ethoxy)-pyridine-2-carboxylic acid and (2S)-2-amino-4-methyl-pentanamide (CAN 687-51-4) as starting materials, MS (EI): m/e=401.1 [M+H]+.

reactant | 5-(3,3-difluoro-azetidin-1-yl)-6-(2-methoxy-ethoxy)-pyridine-2-carboxylic acid | FC1(CN(C1)C=1C=CC(=NC1OCCOC)C(=O)O)F | C12H14F2N2O4
reactant | (2S)-2-amino-4-methyl-pentanamide | N[C@H](C(=O)N)CC(C)C | C6H14N2O
product | 5-(3,3-Difluoro-azetidin-1-yl)-6-(2-methoxy-ethoxy)-pyridine-2-carboxylic acid ((S)-1-carbamoyl-3-methyl-butyl)-amide | C(N)(=O)[C@H](CC(C)C)NC(=O)C1=NC(=C(C=C1)N1CC(C1)(F)F)OCCOC | C18H26F2N4O4
